US09193721B2
Step B: Methyl 2,5-dichloro-6-cyanonicotinate
Methyl 2,5-dichloronicotinate 1-oxide (16 g, 72 mmol) was dissolved in acetonitrile (200 mL) with triethylamine (15 mL, 110 mmol) and trimethylsilyl cyanide (24 mL, 180 mmol) was added. The mixture was heated to 70° C. for 30 minutes. Evaporation and purification on silica gel using ethyl acetate in hexanes (0-30%) gave the desired compound (14 g, 82%). LCMS calculated for C8H5Cl2N2O2 (M+H)+: m/z=231.0. found: 230.8.

reactant | Methyl 2,5-dichloronicotinate 1-oxide | 72 mmol, 16 g | ClC1=C(C(=O)OC)C=C(C=[N+]1[O-])Cl | C7H5Cl2NO3
reactant | triethylamine | 110 mmol, 15 mL | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl cyanide | 180 mmol, 24 mL | C[Si](C)(C)C#N | C4H9NSi
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | Methyl 2,5-dichloro-6-cyanonicotinate | 14 g, 82% | ClC1=C(C(=O)OC)C=C(C(=N1)C#N)Cl | C8H4Cl2N2O2
